US06506769B2
The above amide was converted to 7-acetamido-4,4-dimethyl-8-nitro-2H,4H-isoquinoline-1,3-dione as described in U.S. Pat. No. 4176184 (1979). 7-Acetamido-4,4-dimethyl-8-nitro-2H,4H-isoquinoline-1,3-dione (4.0 g, 13.7 mmol) was added to 90% H2SO4 and heated at 70° C. for 8 h. The cooled mixture was poured onto ice. The precipitate was collected, dissolved in ethyl acetate, washed with water, dried and evaporated to give 7-amino-4,4-dimethyl-8-nitro-2H,4H-isoquinoline-1,3-dione (3.38 g, 99%), mp 259-263° C.; MS (CI) 250 (MH+).

reactant | 7-acetamido-4,4-dimethyl-8-nitro-2H,4H-isoquinoline-1,3-dione | C(C)(=O)NC1=CC=C2C(C(NC(C2=C1[N+](=O)[O-])=O)=O)(C)C | C13H13N3O5
reactant | 7-Acetamido-4,4-dimethyl-8-nitro-2H,4H-isoquinoline-1,3-dione | 13.7 mmol, 4.0 g | C(C)(=O)NC1=CC=C2C(C(NC(C2=C1[N+](=O)[O-])=O)=O)(C)C | C13H13N3O5
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
product | 7-amino-4,4-dimethyl-8-nitro-2H,4H-isoquinoline-1,3-dione | 3.38 g, 99% | NC1=CC=C2C(C(NC(C2=C1[N+](=O)[O-])=O)=O)(C)C | C11H11N3O4
